US07915293B2
1 g of 2-Fluoro-5-Nitro benzotrifluoride (4.78 m.moles) was dissolved in 3 ml of DMF. To this solution was added 640 mg (5 m.moles) of 2-chloro-phenol and 2.76 grams of potassium carbonate. The reaction mixture was heated for 4 hours at 100° C. The reaction was cooled to room temperature and 200 ml of water added. It was then extracted 4 times with methylene chloride. The combined organic layers were dried over anhydrous magnesium sulfate and the solvent evaporated to yield a pale yellow oil. It was purified using silica-gel column chromatography (1:3 ethyl acetate hexane) to yield 1.15 g (87.5% yield) of pure 1-Chloro-2-[4-Nitro-2-(Trifluoromethyl)phenoxy]benzene as product.

reactant | 2-Fluoro-5-Nitro benzotrifluoride | 1 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | 2-chloro-phenol | 640 mg | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium carbonate | 2.76 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-Chloro-2-[4-Nitro-2-(Trifluoromethyl)phenoxy]benzene | 1.15 g, 87.5% yield | ClC1=C(C=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H7ClF3NO3
